US09403810B2
Step 2: Ethyl 5-formyl-4-methylisoxazole-3-carboxylate
To ethyl 4-methyl-5-vinylisoxazole-3-carboxylate (3 g, 16.56 mmol) in THF (40 mL) and water (20 mL) at room temperature, was added sodium periodate (10.62 g, 49.7 mmol) and Osmium ENCAT 40 (828 mg, 0.248 mmol). The reaction mixture was stirred at room temperature over the weekend. The resulting mixture was filtered over Celite® (5 g), washing with EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered and the solvent was removed under reduced pressure. The crude material was suspended in DCM, sonicated and passed through a phase separating cartridge. The eluent was collected and the solvent removed under reduced pressure to afford the title compound;

reactant | ethyl 4-methyl-5-vinylisoxazole-3-carboxylate | 16.56 mmol, 3 g | CC=1C(=NOC1C=C)C(=O)OCC | C9H11NO3
reactant | sodium periodate | 49.7 mmol, 10.62 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
catalyst | Osmium | 0.248 mmol, 828 mg | [Os] | Os
product | Ethyl 5-formyl-4-methylisoxazole-3-carboxylate | C(=O)C1=C(C(=NO1)C(=O)OCC)C | C8H9NO4
